US05631280
Step 1: Preparation of 3-[(1-naphthylmethyl)oxy]nitrobenzene (60)
To a solution of 3-nitrophenol (200 mg) in 4.0 mL of dimethylformamide at 0° C. was added NaH. After 10 minutes, 1-bromomethylnaphthalene (480 mg) was added, and the cold bath was removed. After ca. 15 h, the solution was quenched by the addition of sat. NH4Cl solution, and concentrated to dryness in vacuo. The residue was diluted with ethyl acetate and washed with water, sat. aq. NaHCO3 solution, and brine. The solution was dried (MgSO4), filtered, and concentrated in vacuo to provide the crude product. Trituration with 9:1 hexane/EtOAc provided the titled compound as a light brown solid.

reactant | 3-nitrophenol | 200 mg | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | NaH | [H-].[Na+]
reactant | 1-bromomethylnaphthalene | 480 mg | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
product | 3-[(1-naphthylmethyl)oxy]nitrobenzene | C1(=CC=CC2=CC=CC=C12)COC=1C=C(C=CC1)[N+](=O)[O-] | C17H13NO3
